US04963590
5-(3,4-Dimethoxy-5-chlorophenyl)-2,4-pentadienoic acid
To a solution containing 10.0 g of dimethoxy-5-chlorobenzaldehyde and 8.3 ml of ethyl crotonate in 65 ml of N-methylpyrrolidone 6.7 g of potassium tert.-butoxide was added with stirring. The solution was stirred for 0.5 h more at 20° C. and the solution was poured then to a mixture of ice and hydrochloric acid and extracted with ether. The ether extract was washed with water and extracted then with NaHCO3 -solution. The aqueous phase was acidified with hydrochloric acid and the semisolid product was separated and washed with water. Yield 7.3 g (55%).

reactant | dimethoxy-5-chlorobenzaldehyde | 10.0 g | COC=1C(=C(C=O)C=C(C1)Cl)OC | C9H9ClO3
reactant | ethyl crotonate | 8.3 ml | C(\C=C\C)(=O)OCC | C6H10O2
reactant | potassium tert.-butoxide | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N-methylpyrrolidone | 65 ml, 6.7 g | CN1C(CCC1)=O | C5H9NO
product | 5-(3,4-Dimethoxy-5-chlorophenyl)-2,4-pentadienoic acid | COC=1C=C(C=C(C1OC)Cl)C=CC=CC(=O)O | C13H13ClO4
